US08084448B2
B. 2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-benzonitrile
To a solution of 2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-benzonitrile (57 mg, 0.107 mmol) in THF (10 mL) is added TBAF (0.16 mL, 1.5 equiv) and the mixture is stirred at 60° C. for 2 h. The mixture is partitioned between EtOAc and 1N HCl. The organic phase is washed with 1N HCl and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by column chromatography using a gradient of 0-40% EtOAc/hexane as eluent to give the title compound.

reactant | 2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-benzonitrile | 0.107 mmol, 57 mg | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C#N)C=CC=C2)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C28H31N3O4SSi
reactant | TBAF | 0.16 mL, 1.5 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-benzonitrile | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C#N)C=CC=C2)C=CC1N1S(NC(C1)=O)(=O)=O | C23H19N3O4S
